US04162246
2-Hydroxy-1,3-bis(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propane (Compound No. 164)
22.0 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 5.1 g of potassium hydroxide were added to 200 ml of N,N-dimethylformamide, and the mixture was heated, with stirring, for 30 minutes at 50°-60° C. At the end of this time, 9.0 g of 1,3-dibromo-2-propanol were added dropwise to the mixture and the whole mixture was heated, with stirring, for 6 hours at 100°-110° C. After completion of the reaction, the reaction mixture was condensed by evaporation and the residue was washed with a 1% w/w aqueous solution of potassium hydroxide and then recrystallised from a 2:1 by volume mixture of benzene and ethanol, giving the desired Compound No. 164 in the form of white crystals, melting point 255°-256° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 22.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | potassium hydroxide | 5.1 g | [OH-].[K+]
reactant | 1,3-dibromo-2-propanol | 9.0 g | BrCC(CBr)O | C3H6Br2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-Hydroxy-1,3-bis(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propane | OC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C27H46N6O5
